US07763657B2
4-Amino-3-iodo-5-trifluoromethylbenzonitrile (1805.2 mg, 5.19 mmol) was dissolved in THF at 0° C. After Borane-THF complex (3 eq, 17.36 mmol, 17.36 ml) was slowly added into the reaction mixture, A reaction temperature was heated to reflux. The reaction mixture was stirred for 12 hr with reflux. After confirming the completion of the reaction, MeOH was added. The mixture was stirred for 4 hr. The reaction solvent was removed in vacuo. A residue was extracted with Ethyl acetate, washed with H2O and brine, dried with Na2SO4 and concentrated in vacuo to yield 4-Aminomethyl-2-iodo-6-trifluoromethylphenylamine (55.1 mg).

reactant | 4-Amino-3-iodo-5-trifluoromethylbenzonitrile | 5.19 mmol, 1805.2 mg | NC1=C(C=C(C#N)C=C1C(F)(F)F)I | C8H4F3IN2
reactant | MeOH | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 4-Aminomethyl-2-iodo-6-trifluoromethylphenylamine | 55.1 mg | NCC1=CC(=C(C(=C1)C(F)(F)F)N)I | C8H8F3IN2
